US06720463B1
Methyl (R)-(+)-2-(1-Isobutoxyethoxy)propionate
0.5 g (0.012 mole) of sodium borohydride was suspended in 10 ml of methanol at room temperature. Thereto was added 2.5 g (0.01 mole) of isobutyl (R)-(+)-2-(1-isobutoxyethoxy)propionate with stirring. The resulting mixture was stirred at room temperature for 6 hours but no change was seen. Therefore, the mixture was heated to 60° C. and stirred for 4 hours to give rise to a reaction. The crude reaction mixture was analyzed. As a result, the raw material remained by 7% and the main product included 92% of a title compound formed by conversion (ester exchange) of the raw material isobutyl ester to the corresponding methyl ester, and no 2-(1-isobutoxyethoxy)-1-propanol was detected. After the reaction, 20 ml of water was added, followed by stirring for 0.5 hour. Then, 50 ml of toluene was added and the organic layer was separated. The water layer was subjected to extraction with 20 ml of toluene. The two organic layers were combined and washed with 20 ml of water and 20 ml of a saturated aqueous sodium chloride solution in this order. The washed solution was dried over anhydrous sodium sulfate and then subjected to vacuum distillation to remove the solvent. The resulting concentrate was subjected to distillation to obtain 1.8 g (yield: 90.8%) of an oily methyl ester compound. The GC−MS spectrum of this compound agreed with that of the compound obtained in Reference Example 5.

reactant | sodium borohydride | 0.012 mole, 0.5 g | [BH4-].[Na+]
reactant | isobutyl (R)-(+)-2-(1-isobutoxyethoxy)propionate | 0.01 mole, 2.5 g | C(C(C)C)OC(C)O[C@@H](C(=O)OCC(C)C)C | C13H26O4
solvent | methanol | 10 ml | CO | CH4O
product | Methyl (R)-(+)-2-(1-Isobutoxyethoxy)propionate | 92% | C(C(C)C)OC(C)O[C@@H](C(=O)OC)C | C10H20O4
